US04115380
108 Parts by weight of p-phenylene-diamine which are placed into 300 parts by volume of water and 1000 parts by weight of ice are diazotized at a pH of from 1.5 to 3.5 by adding a total of about 200 parts by volume of 31% by weight hydrochloric acid and about 69 parts by weight of sodium nitrite in an aqueous solution. Upon clarification with active charcoal/guhr, 180 parts by weight of phenol are added, and a pH in the range of from 8 to 11 is established with 90 parts by volume of a 33% by weight sodium hydroxide solution. Within 30 minutes the 4-amino-benzene-diazonium salt is coupled to give the 4-hydroxy-4'-aminoazobenzene. Subsequently 170 parts by volume of 33% by weight of sodium hydroxide solution and 65 parts by weight of sodium nitrite are added.

reactant | p-phenylene-diamine | C1(=CC=C(C=C1)N)N | C6H8N2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | charcoal | C | CH4
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-amino-benzene-diazonium | NC1=CC=C(C=C1)[N+]#N
solvent | water | O | H2O
product | 4-hydroxy-4'-aminoazobenzene | OC1=CC=C(C=C1)N=NC1=CC=C(C=C1)N | C12H11N3O
